### PR TITLE
feat: the subcomplexes of a (relative classical) CW complex form a completely distributive lattice

### PR DESCRIPTION
**Pull request by scholzhannah**
In this PR we prove that the space of subcomplexes `Subcomplex C` of a (relative classical) CW complex `C` is a `CompletelyDistribLattice`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 1]
```diff
@@ -157,12 +159,399 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+      exact fun hi hi' ↦ subset_iUnion_of_subset hi Subset.rfl
+    · intro x
+      simp only [mem_inter_iff, mem_iUnion, exists_prop, and_imp, forall_exists_index]
+      intro n i hi hxi m j hj hxj
+      use n, i, hi
+      refine ⟨?_, hxi⟩
+      suffices (⟨n, i⟩ : Σ n, cell C n) = ⟨m, j⟩ by aesop
+      apply eq_of_not_disjoint_openCell
+      rw [not_disjoint_iff]
+      exact ⟨x, hxi, hxj⟩
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I think this should follow from a (nonexistent, AFAIK) lemma about unions of families of pairwise disjoint sets. Something like "if `S : ι → Set X` is a family of pairwise disjoint sets, and `A B : Set ι`, then `(⋃ i ∈ A, S i) ∩ (⋃ i ∈ B, S i) = ⋃ i ∈ (A ∩ B), S i`.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 2]
```diff
@@ -157,12 +159,399 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+      refine ⟨?_, hx⟩
+      intro F hF
+      obtain ⟨m, j, hj, hx'⟩ := h' F hF
+      suffices (⟨n, i⟩ : Σ n, cell C n) = ⟨m, j⟩ by aesop
+      apply eq_of_not_disjoint_openCell
+      rw [not_disjoint_iff]
+      exact ⟨x, hx, hx'⟩
+    · simp_all only [nonempty_subtype, not_exists, iUnion_coe_set, iInter_of_empty, iInter_univ,
+        mem_univ, iUnion_true, iInter_coe_set, inter_univ]
+      exact union_iUnion_openCell_eq_complex
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Same comment applies here, I think there should be a set theoretic lemma.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 3]
```diff
@@ -157,12 +159,399 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
     [Finite C] (E : Subcomplex C) : Finite (E : Set X) :=
   finite_of_finiteDimensional_finiteType _
 
+section Lattice
+
+/-- Auxiliary definition used to define `sup` in the `DistribLattice` structure on `Subcomplex C`.
+-/
+@[simps -isSimp]
+protected def RelCWComplex.Subcomplex.sup [RelCWComplex C D] (E F : Subcomplex C) :
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Is there a reason not to make this a `Sup` instance?

**Comment by ADedecker** [comment]
I just opened #31063 with the set theoretic lemmas I was mentioning above.

**Comment by scholzhannah** [comment]
> I just opened #31063 with the set theoretic lemmas I was mentioning above.

Thanks! I was in the process of doing that myself but then got sick and never figured out how to do the second one. So thanks and sorry for not doing this myself!

**Comment by ADedecker** [comment]
No worries at all! I should have asked before, but I was getting worried that you didn't have time to take care of this, so I wanted to give it a slight nudge, that's all!

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 3 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I somehow hadn't thought of that before. When trying, I had some issues combining the `Min`, `Max` and `PartialOrder` (that arises from `SetLike`) instances together into a `Lattice` instance. I tried to fix that with `Lattice.mk''` which I added. I honestly don't know if that is the correct way to fix this issue. And let me know if you would prefer it if I put that definition into a separate PR.

Comment (ADedecker) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I don't quite get what the issues are :thinking: Is there something wrong with the following ?
```lean
instance RelCWComplex.Subcomplex.instLattice [RelCWComplex C D] : Lattice (Subcomplex C) where
  sup E F := E ⊔ F
  inf E F := E ⊓ F
  le_sup_left E F := by simp [← SetLike.coe_subset_coe, coe_max]
  le_sup_right E F := by simp [← SetLike.coe_subset_coe, coe_max]
  sup_le E F G hE hF := by simp_all [← SetLike.coe_subset_coe, coe_max]
  inf_le_left E F := by simp [← SetLike.coe_subset_coe, coe_min]
  inf_le_right E F := by simp [← SetLike.coe_subset_coe, coe_min]
  le_inf E F G hE hF := by simp_all [← SetLike.coe_subset_coe, coe_min]
```
(I admit I didn't anticipate the fact that `Max` and `Sup` got merged so you need to specify the `sup` and `inf` manually, but I think that's not an issue)

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 4]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
     [Finite C] (E : Subcomplex C) : Finite (E : Set X) :=
   finite_of_finiteDimensional_finiteType _
 
+section Lattice
+
+@[simps -isSimp]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: The name of the generated lemma is `coe_max`, which is a bit unfortunate in this setting, where `coe_sup` would fit better. Would you mind adding it manually?

Also, is there a reason for *not* making it a simp lemma?

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 5]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+  max E F := {
+    carrier := E ∪ F
+    I n := E.I n ∪ F.I n
+    closed' := (closed E).union (closed F)
+    union' :=  by
+      simp [mem_union, iUnion_or, iUnion_union_distrib, ← union, ← union_assoc _ D, union_comm,
+        union_assoc]
+  }
+
+@[simps -isSimp]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Same here.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 6]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+    union' := by
+      simp only [iUnion_coe_set, mem_inter_iff, iUnion_and, ← union]
+      rw [inter_union_distrib_left, union_inter_cancel_left, union_inter_distrib_left,
+        ← union_assoc, union_self, ← union_inter_distrib_left]
+      congrm D ∪ ?_
+      calc
+        ⋃ n, ⋃ i ∈ E.I n, ⋃ (_ : i ∈ F.I n), openCell n i
+        _ = ⋃ (x ∈ {x : Σ n, cell C n | x.2 ∈ E.I x.1} ∩ {x : Σ n, cell C n | x.2 ∈ F.I x.1}),
+            openCell x.1 x.2 := by
+          simp [iUnion_sigma, iUnion_and]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
      simp_rw [← Subcomplex.union, ← union_inter_distrib_left, iUnion_coe_set]
      congrm D ∪ ?_
      calc
        ⋃ n, ⋃ i ∈ (E.I n ∩ F.I n), openCell n i
        _ = ⋃ (x ∈ {x : Σ n, cell C n | x.2 ∈ E.I x.1} ∩ {x : Σ n, cell C n | x.2 ∈ F.I x.1}),
            openCell x.1 x.2 := by
          simp [iUnion_sigma]
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 7]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+      rw [← SetLike.coe_subset_coe, eq_iff, coe_max]
+      exact union_eq_right.symm)
+
+instance RelCWComplex.Subcomplex.instDistribLattice [RelCWComplex C D] :
+    DistribLattice (Subcomplex C) :=
+  {(instLattice : Lattice (Subcomplex C)) with
+    le_sup_inf E F G := by
+      simp only [← SetLike.coe_subset_coe, coe_max, coe_min]
+      rw [← union_inter_distrib_left]
+    }
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
    DistribLattice (Subcomplex C) where
  le_sup_inf E F G := by
    simp [← SetLike.coe_subset_coe, coe_max, coe_min, union_inter_distrib_left]
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 8]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+      intro n ⟨i, hi⟩
+      apply subset_union_of_subset_right
+      simp_rw [mem_iUnion] at hi
+      obtain ⟨E, hE, hEj⟩ := hi
+      apply subset_iUnion_of_subset E
+      apply subset_iUnion_of_subset hE
+      rw [← E.union_closedCell (C := C)]
+      apply subset_union_of_subset_right
+      exact subset_iUnion_of_subset n (subset_iUnion
+        (fun (j : ↑(E.I n)) ↦ closedCell (C := C) n ↑j) ⟨i, hEj⟩))
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
      exact subset_iUnion₂_of_subset E hE <| E.closedCell_subset_of_mem hEj)
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 9]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+        (s := fun E ↦ D ∪ ⋃ n, ⋃ (j : E.1.I n), openCell n j.1)]
+      by_cases h : Nonempty S
+      · rw [← union_iUnion, ← union_assoc, union_self, iUnion_comm]
+        congrm D ∪ ?_
+        apply iUnion_congr fun n ↦ ?_
+        simp_rw [iUnion_subtype, mem_iUnion, iUnion_exists]
+        rw [iUnion_comm]
+        apply iUnion_congr fun E ↦ ?_
+        rw [iUnion_comm]
+      · simp_all)
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean:276]:
```suggestion
    (by
      by_cases h : Nonempty S
      · simp_rw [← Subcomplex.union, biUnion_eq_iUnion, union_iUnion, ← union_assoc,
          union_self, ← union_iUnion, iUnion_subtype, biUnion_iUnion, iUnion_comm (ι := ℕ)]
      · simp_all)
```
This one is actually a bit tricky because of this back and forth between `iUnion`s indexed by subtypes and `biUnion`s, but it ends up working nicely.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 10]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+
+lemma RelCWComplex.Subcomplex.iSup_carrier [T2Space X] [RelCWComplex C D]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
lemma RelCWComplex.Subcomplex.coe_iSup [T2Space X] [RelCWComplex C D]
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 11]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+    {J : Type*} (f : J → Subcomplex C) :
+    ((⨆ (j : J), f j) : Subcomplex C) = D ∪ ⋃ j, f j := by
+  simp [iSup, coe_sSup]
+
+@[simp]
+lemma RelCWComplex.Subcomplex.iSup_coe_eq_of_nonempty [T2Space X] [RelCWComplex C D]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
lemma RelCWComplex.Subcomplex.coe_iSup_eq_of_nonempty [T2Space X] [RelCWComplex C D]
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 12]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+  simp only [iSup_carrier, union_eq_right]
+  apply subset_iUnion_of_subset (Classical.choice (α := J) inferInstance)
+  exact base_subset_complex
+
+@[simp]
+lemma RelCWComplex.Subcomplex.iSup_coe_eq_of_empty [T2Space X] [RelCWComplex C D]
+    {J : Type*} [IsEmpty J] (f : J → Subcomplex C) :
+    ⨆ (j : J), f j = ⊥ := by
+  ext x
+  simp [← SetLike.mem_coe, iSup_carrier, coe_bot]
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I don't think this lemma is needed: once you get the proper instances it is a general fact about complete lattices.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 13]
```diff
@@ -157,12 +159,344 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+        iInter_univ, inter_univ, iUnion_exists, iUnion_iUnion_eq', coe_sInf]
+        ext x
+        simp only [mem_union, mem_iUnion, exists_const, iff_or_self]
+        exact fun h ↦ base_subset_complex h
+    }
+
+instance RelCWComplex.Subcomplex.instCompletelyDistribLattice [T2Space X]
+    [RelCWComplex C D] : CompletelyDistribLattice (Subcomplex C) :=
+  CompletelyDistribLattice.ofMinimalAxioms
+    RelCWComplex.Subcomplex.CompletelyDistribLattice.MinimalAxioms
```
Comment (ADedecker) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
instance RelCWComplex.Subcomplex.instCompleteLattice [T2Space X] [RelCWComplex C D] :
    CompleteLattice (Subcomplex C) where
  le_sSup S E hES := by
    simp only [← SetLike.coe_subset_coe, coe_sSup]
    apply subset_union_of_subset_right
    exact subset_biUnion_of_mem hES
  sSup_le S E hE := by simp_all [← SetLike.coe_subset_coe, base_subset_complex, coe_sSup]
  sInf_le S E hES := by
    simp only [← SetLike.coe_subset_coe, coe_sInf]
    apply inter_subset_right.trans
    exact biInter_subset_of_mem hES
  le_sInf SDiff E hE := by simp_all [← SetLike.coe_subset_coe, subset_complex, coe_sInf]
  le_top E := by simp [← SetLike.coe_subset_coe, subset_complex, coe_top]
  bot_le E := by simp [← SetLike.coe_subset_coe, base_subset_complex]

/-- An auxiliary definition to provide a `CompletelyDistribLattice` instance on subcomplexes. -/
protected def RelCWComplex.Subcomplex.CompletelyDistribLattice.MinimalAxioms [T2Space X]
    [RelCWComplex C D] : CompletelyDistribLattice.MinimalAxioms (Subcomplex C) where
  iInf_iSup_eq {ι} f E := by
    by_cases h : Nonempty ι
    · by_cases h' : ∀ a, Nonempty (f a)
      · have h'' := Classical.nonempty_pi.mpr h'
        simp [eq_iff, ← iInf_eq_iInter, ← iSup_eq_iUnion, iInf_iSup_eq]
      · push_neg at h'
        have h'' := isEmpty_pi.mpr h'
        rcases h' with ⟨i, hi⟩
        rw [iSup_of_empty, eq_bot_iff]
        exact iInf_le_of_le i <| by rw [iSup_of_empty]
    · rw [not_nonempty_iff] at h
      simp

instance RelCWComplex.Subcomplex.instCompletelyDistribLattice [T2Space X]
    [RelCWComplex C D] : CompletelyDistribLattice (Subcomplex C) := fast_instance%
  { RelCWComplex.Subcomplex.instCompleteLattice with
    __ := CompletelyDistribLattice.ofMinimalAxioms
      RelCWComplex.Subcomplex.CompletelyDistribLattice.MinimalAxioms }
```
Here, it is helpful to provide the `CompleteLattice` instance first, so that you can use properties of complete lattices in the following proof (I also think it is more readable this way).

Note that another way to approach to this would be to extend [Set.Icc.completeLattice](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLatticeIntervals.html#Set.Icc.completeLattice) to a `CompletelyDistribLattice` (taking care of the fact that empty infimas and supremas are modified), and then your result would follow from [Function.Injective.completelyDistribLatticeMinimalAxioms](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteBooleanAlgebra.html#Function.Injective.completelyDistribLatticeMinimalAxioms). But I'm not sure this is worth the trouble.

The `fast_instance%` magic at the end is a way to make sure that everything works smoothly for typeclass inference.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 3 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I think I thought that the `sup E F := E ⊔ F` would lead to defeq issues or just be a little ugly.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 4 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Yes, if you want to say that `E ⊔ F` is a CWComplex this is `CWComplex ↑(E ⊔ F)` if you accidentally rewrite in there or in similar terms, Lean will not find the relevant instances anymore.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 13 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: That is indeed a lot nicer, thanks!

**Comment by scholzhannah** [comment]
Sorry for not working on this in such a long time. Thank you for all your comments! I now have a lot of time to work on PRs again.

**Comment by j-loreaux** [comment]
@scholzhannah I think you missed one of Anatole's renames above.

**Comment by scholzhannah** [comment]
> @scholzhannah I think you missed one of Anatole's renames above.

Ah yes, I missed a few things. Thanks!

**Comment by j-loreaux** [comment]
I don't feel qualified to deal with CW complexes, so I've unassigned myself.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 4 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I think this issue might have disappeared with the stricter rules around defeq-abuse. I'll think about this and then potentially make all lemmas `simp` lemmas again.

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 14]
```diff
@@ -167,4 +169,315 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+
+@[alias_in CWComplex.Subcomplex]
+instance RelCWComplex.Subcomplex.instMax [RelCWComplex C D] : Max (Subcomplex C) where
+  max E F := {
+    carrier := E ∪ F
+    I n := E.I n ∪ F.I n
+    closed' := (closed E).union (closed F)
+    union' :=  by
+      simp [mem_union, iUnion_or, iUnion_union_distrib, ← union, ← union_assoc _ D, union_comm,
+        union_assoc]}
```
Comment (themathqueen) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: I think this looks better? (same thing elsewhere?)
```suggestion
  max E F :=
    { carrier := E ∪ F
      I n := E.I n ∪ F.I n
      closed' := (closed E).union (closed F)
      union' :=  by
        simp [mem_union, iUnion_or, iUnion_union_distrib, ← union, ← union_assoc _ D, union_comm,
          union_assoc] }
```

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean [hunk 15]
```diff
@@ -167,4 +169,315 @@ instance RelCWComplex.Subcomplex.finite_subcomplex_of_finite [T2Space X] [RelCWC
...
+/-- A finite union of finite-dimensional subcomplexes is again a finite-dimensional subcomplex. -/
+@[alias_in CWComplex.Subcomplex]
+instance RelCWComplex.Subcomplex.finiteDimensional_finite_iSup_of_finiteDimensional
+    [T2Space X] [RelCWComplex C D] {J : Type*} [_root_.Finite J]
+    {f : J → Subcomplex C} [hf : ∀ (j : J), FiniteDimensional (f j : Set X)] :
+    FiniteDimensional (((⨆ j : J, f j) : Subcomplex C) : Set X) where
+  eventually_isEmpty_cell := by
+    have h j := (hf j).eventually_isEmpty_cell
+    simp only [cell_def, isEmpty_coe_sort, Filter.eventually_iff, Filter.mem_atTop_sets,
+      mem_setOf_eq, iSup_I, iUnion_eq_empty, setOf_forall, Filter.iInter_mem] at h ⊢
```
Comment (felixpernegger) [inline Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]:
```suggestion
      mem_ofPred_eq, iSup_I, iUnion_eq_empty, ofPred_forall, Filter.iInter_mem] at h ⊢
```
@scholzhannah after this, CI ought to pass

**Comment by felixpernegger** [comment]
awaiting-author

File: Mathlib/Topology/CWComplex/Classical/Subcomplex.lean (hunk 15 above)
Comment (scholzhannah) [reply Mathlib/Topology/CWComplex/Classical/Subcomplex.lean]: Yes, thanks!
